US08293916B2
Step 2: [1-(2,4-Difluoro-phenyl)-2,5-dimethyl-1H-imidazol-4-yl]-methanol
1-(2,4-Difluoro-phenyl)-2,5-dimethyl-1H-imidazole-4-carboxylic acid ethyl ester (0.5 g, 2 mmol) was dissolved in 15 mL dry THF and cooled to 0° C. Lithium aluminum hydride (2.0 mL, 1M in THF, 2 mmol) was added dropwise and stirred for 45 min at 0° C. The reaction mixture was quenched successively with 76 μl water, 76 μl 15% sodium hydroxide and 230 μl water. Sodium sulfate was added, stirred for 10 min, filtered and evaporated to dryness to obtain the desired compound as a white solid (0.39 g, 92%), MS: m/e=239.2 (M+H+).

reactant | 1-(2,4-Difluoro-phenyl)-2,5-dimethyl-1H-imidazole-4-carboxylic acid ethyl ester | 2 mmol, 0.5 g | C(C)OC(=O)C=1N=C(N(C1C)C1=C(C=C(C=C1)F)F)C | C14H14F2N2O2
reactant | Lithium aluminum hydride | 2 mmol, 1M, 2.0 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [1-(2,4-Difluoro-phenyl)-2,5-dimethyl-1H-imidazol-4-yl]-methanol | 0.39 g, 92% | FC1=C(C=CC(=C1)F)N1C(=NC(=C1C)CO)C | C12H12F2N2O
